US03991202
4.2 parts of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole and 3 parts of 2,4-dichloro-α-(chloromethyl)benzyl alcohol are mixed together in 40 parts of benzonitrile and the resulting mixture is stirred at reflux temperature for 3 days. At the end of this period the reaction solvent is evaporated off under reduced pressure to obtain a 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(2,4dichloro-β-hydroxyphenethyl)imidazolium chloride product as residue.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | 2,4-dichloro-α-(chloromethyl)benzyl alcohol | ClC1=C(C(CCl)O)C=CC(=C1)Cl | C8H7Cl3O
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(2,4dichloro-β-hydroxyphenethyl)imidazolium chloride | [Cl-].ClC1=C(C(C[N+]2=CN(C=C2)CC(C2=C(C=C(C=C2)Cl)Cl)O)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C26H21Cl6N2O2.ClH/c27-17-2-1-16(22(30)9-17)14-36-26(21-6-4-19(29)11-24(21)32)13-34-8-7-33(15-34)12-25(35)20-5-3-18(28)10-23(20)31;/h1-11,15,25-26,35H,12-14H2;1H/q+1;/p-1
